US08686022B2
(5-tert-butyl-2-methoxy-3-nitro-phenyl)-methanol
3.47 g 5-tert-butyl-2-methoxy-3-nitro-benzaldehyde are dissolved in 15 ml dichloromethane and 15 ml of methanol, cooled to 0° C. and combined with 600 mg sodium borohydride. The mixture is allowed to come up to ambient temperature and stirred for 2 hours. Then the solvents are eliminated in vacuo, the residue is taken up in water and combined with 6 ml acetic acid. It is stirred vigorously for 5 minutes and then extracted twice with ethyl acetate. The combined organic phases are washed with saturated aqueous sodium chloride solution, dried on magnesium sulphate and the solvents are eliminated in vacuo. The product thus obtained is further reacted directly.

reactant | 5-tert-butyl-2-methoxy-3-nitro-benzaldehyde | 3.47 g | C(C)(C)(C)C=1C=C(C(=C(C=O)C1)OC)[N+](=O)[O-] | C12H15NO4
reactant | sodium borohydride | 600 mg | [BH4-].[Na+]
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | methanol | 15 ml | CO | CH4O
solvent | water | O | H2O
product | (5-tert-butyl-2-methoxy-3-nitro-phenyl)-methanol | C(C)(C)(C)C=1C=C(C(=C(C1)CO)OC)[N+](=O)[O-] | C12H17NO4
